US08207174B2
2-((2-fluoro-4-methoxyphenoxy)methyl)oxirane
Synthesis followed SP3a, using 3.5 mmol 2-fluoro-4-methoxyphenol and racemic epibromohydrine to give the title compound upon purification by Flash Master Personal (20 g silica gel cartridge, PE to PE/ethyl acetate 5:1) with 48% yield.

reactant | 2-fluoro-4-methoxyphenol | 3.5 mmol | FC1=C(C=CC(=C1)OC)O | C7H7FO2
reactant | racemic epibromohydrine | C(Br)C1CO1 | C3H5BrO
product | 2-((2-fluoro-4-methoxyphenoxy)methyl)oxirane | 48% yield | FC1=C(OCC2OC2)C=CC(=C1)OC | C10H11FO3
